US08563565B2
(1) Synthesis of ethyl 5-[2,5-difluoro-4-(2-methoxy-4,6-dimethylpyridin-3-yl)phenyl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole-4-carboxylate
Pd(PPh3)4 (50 mg), cesium carbonate (282 mg) and water (0.5 mL) were added to a mixed solution of ethyl 5-(4-bromo-2,5-difluorophenyl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole-4-carboxylate obtained in Preparation Example 10 (180 mg), (2-methoxy-4,6-dimethylpyridin-3-yl)boronic acid obtained in Preparation Example 27 (90 mg) and 1,4-dioxane (2 mL), and the mixture was stirred at 110° C. for six hours. After cooling the reaction mixture to room temperature, ethyl acetate and brine were added, and the mixture was filtered through a cotton plug. The organic layer was separated and dried over anhydrous magnesium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate/n-heptane, 25% to 46% to 53%) to give the title compound (157 mg).

reactant | cesium carbonate | 282 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 0.5 mL | O | H2O
reactant | ethyl 5-(4-bromo-2,5-difluorophenyl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole-4-carboxylate | BrC1=CC(=C(C=C1F)C1=C(C=NN1C1CCOCC1)C(=O)OCC)F | C17H17BrF2N2O3
reactant | (2-methoxy-4,6-dimethylpyridin-3-yl)boronic acid | COC1=NC(=CC(=C1B(O)O)C)C | C8H12BNO3
solvent | brine | [Cl-].[Na+].O
catalyst | Pd(PPh3)4 | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | ethyl 5-[2,5-difluoro-4-(2-methoxy-4,6-dimethylpyridin-3-yl)phenyl]-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole-4-carboxylate | 157 mg | FC1=C(C=C(C(=C1)C=1C(=NC(=CC1C)C)OC)F)C1=C(C=NN1C1CCOCC1)C(=O)OCC | C25H27F2N3O4
